US08012956B2
To methyl 2-methyl-3-(methylamino)benzoate (125 mg, 0.698 mmol) in methanol (7 ml) was added 2M aqueous lithium hydroxide (1.8 ml, 3.63 mmol), and the solution was stirred at 25° C. for 3 h, at which point the volume was reduced by rotary evaporation. The aqueous mixture was diluted with water (3 ml) and the pH adjusted to 5 with 1 N hydrochloric acid. The resultant precipitate was collected by filtration and dried in vacuo to afford (50 mg, 42%) of 2-methyl-3-(methylamino)benzoic acid. MS (EI) for C9H11NO2: 166 (MH+).

reactant | methyl 2-methyl-3-(methylamino)benzoate | 0.698 mmol, 125 mg | CC1=C(C(=O)OC)C=CC=C1NC | C10H13NO2
reactant | lithium hydroxide | 3.63 mmol, 2M, 1.8 ml | [OH-].[Li+]
solvent | methanol | 7 ml | CO | CH4O
product | 2-methyl-3-(methylamino)benzoic acid | 50 mg, 42% | CC1=C(C(=O)O)C=CC=C1NC | C9H11NO2
